US07244725B2
To a solution of 6-iodochroman-4-ol (1.0 g, 3.6 mmol) in 18 ml of THF, at 0° C., was added the Pd(dppf)Cl2.CH2Cl2 (0.15 g, 0.18 mmol), followed by neopentylmagnesium bromide (10.8 ml, 10.8 mmol, 1.0 M in Et2O). The cold bath was maintained for 10 min., then removed and stirring continued overnight. The mixture was quenched with NH4Cl (30 ml) and extracted with EtOAc (3×50 ml). The combined organic layers were dried over MgSO4 and concentrated in vacuo to yield a brown oil. The crude oil was absorbed onto silica gel followed by flash chromatography (biotage 40S) 10% EtOAc/heptanes to yield 0.36 g (46%) of 6-neopentylchroman-4-ol as a white solid. Rf=0.11. HRMS (ESI+) calcd for C14H20O2 m/z 220.1463 (M+H)+; found 220.1460.

reactant | 6-iodochroman-4-ol | 3.6 mmol, 1.0 g | IC=1C=C2C(CCOC2=CC1)O | C9H9IO2
reactant | CH2Cl2 | 0.18 mmol, 0.15 g | C(Cl)Cl | CH2Cl2
reactant | neopentylmagnesium bromide | 10.8 mmol, 1.0 M, 10.8 ml | C(C(C)(C)C)[Mg]Br
solvent | THF | 18 ml | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-neopentylchroman-4-ol | 0.36 g, 46% | C(C(C)(C)C)C=1C=C2C(CCOC2=CC1)O | C14H20O2
